data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2440,2708,[CH3:17][NH:18][C:19](=[O:20])[C:21](=[O+:22][C-:23]([C:24]([CH3:25])=[O:26])[C:27](=[O:28])[O:29][CH3:30])[C:31](=[O:32])[NH:33][CH3:34].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[CH:12]2[CH2:13][CH2:14][CH:15]1[CH2:16]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([c:6]3[cH:7][cH:8][cH:9][cH:10][cH:11]3)([CH:12]3[CH2:13][CH2:14][CH:15]1[CH2:16]3)[C:21]([C:19]([NH:18][CH3:17])=[O:20])([C:31](=[O:32])[NH:33][CH3:34])[O:22][C:23]2([C:24]([CH3:25])=[O:26])[C:27](=[O:28])[O:29][CH3:30],water,298.15,19.29521824245429,-26.1733065430468
1697,1873,[CH3:11][NH:12][C:13](=[O:14])[C-:15]([NH+:16]=[C:17]([C:18]([CH3:19])=[O:20])[C:21](=[O:22])[O:23][CH3:24])[C:25](=[O:26])[O:27][CH3:28].[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][C:2]12[C:3]([C:4]#[N:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:17]([C:18]([CH3:19])=[O:20])([C:21](=[O:22])[O:23][CH3:24])[NH:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[C:25](=[O:26])[O:27][CH3:28],water,298.15,22.79880365638873,-15.19493483074209
2991,3343,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[CH:9]=[NH+:10][CH-:11][C:12]#[N:13]>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[CH:11]([C:12]#[N:13])[NH:10][CH:9]1[C:7]([NH:6][CH3:5])=[O:8],water,298.15,18.90436680324835,-25.86310007089995
2623,2910,[CH3:14][NH:15][C:16](=[O:17])[C:18](=[O+:19][C-:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7]#[N:8])([CH:9]3[CH:10]=[CH:11][CH:12]1[O:13]3)[C:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[O:19][C:18]2([C:16]([NH:15][CH3:14])=[O:17])[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1,water,298.15,8.067410710806659,-43.25163715509678
340,369,[CH3:13][O:14][C:15](=[O:16])[CH:17]=[O+:18][NH-:19].[CH3:1][O:2][CH:3]1[C:4]#[C:5][C:6]([CH3:7])([CH3:8])[CH2:9][CH2:10][CH2:11][CH2:12]1>>[CH3:1][O:2][CH:3]1[C:4]2=[C:5]([C:6]([CH3:7])([CH3:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[NH:19][O:18][CH:17]2[C:15]([O:14][CH3:13])=[O:16],water,298.15,6.546929851974213,-75.44905386494726
4128,4723,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]([C:16]#[N:17])=[N+:18]([CH3:19])[CH-:20][C:21]#[N:22]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([O:12][CH3:11])=[O:14])([C:16]#[N:17])[N:18]([CH3:19])[CH:20]2[C:21]#[N:22],water,298.15,30.02769634185191,-6.272632450878787
2855,3173,[CH3:23][NH:24][C:25](=[O:26])[C-:27]([C:28](=[O:29])[NH:30][CH3:31])[N+:32]([CH3:33])=[C:34]([C:35]([CH3:36])=[O:37])[c:38]1[cH:39][cH:40][cH:41][cH:42][cH:43]1.[F:1][C:2]([F:3])([F:4])/[C:5](=[C:6](/[c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1)[C:13]([F:14])([F:15])[F:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[F:1][C:2]([F:3])([F:4])[C@@:5]1([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[C@@:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)([C:13]([F:14])([F:15])[F:16])[C:27]([C:25]([NH:24][CH3:23])=[O:26])([C:28](=[O:29])[NH:30][CH3:31])[N:32]([CH3:33])[C:34]1([C:35]([CH3:36])=[O:37])[c:38]1[cH:39][cH:40][cH:41][cH:42][cH:43]1,water,298.15,62.41773279398843,37.03687335322253
3692,4213,[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9].[CH:10]#[N+:11][C-:12]([C:13]#[N:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[CH:10]=[N:11][C:12]1([C:13]#[N:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,15.720287835898516,-34.88697986366032
4774,5452,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[c:15]1[o:16][c:17](=[O:18])[c-:19](-[c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[o+:26]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]1([C:13]([NH:12][CH3:11])=[O:14])[O:16][C:17](=[O:18])[C:19]2([c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[O:26]1,water,298.15,17.493694279078817,-18.08120985504517
2821,3136,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]#[C:13][C:14]([Br:15])([Br:16])[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][O:22][C:23](=[O:24])[C:25](=[O+:26][C-:27]([CH3:28])[CH3:29])[C:30](=[O:31])[O:32][CH3:33]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]2=[C:13]([C:14]([Br:15])([Br:16])[CH2:17][CH2:18][CH2:19][CH2:20]1)[C:25]([C:23]([O:22][CH3:21])=[O:24])([C:30](=[O:31])[O:32][CH3:33])[O:26][C:27]2([CH3:28])[CH3:29],water,298.15,24.170165443160897,-41.30843469111563
